US07060827B2
In a manner similar to the preparation of N2,N4-bis(3,4-ethylenedioxyphenyl)-5-phenyl-2,4-pyrimidinediamine, N2,N4-bis(3,4-ethylenedioxyphenyl)-5-bromo-2,4-pyrimidinediamine and 4-chlorophenylboronic acid were reacted to yield N2,N4-bis(3,4-ethylenedioxyphenyl)-5-(4-chlorophenyl)-2,4-pyrimidinediamine. 1H NMR (DMSO-d6): δ 8.99 (bs, 1H), 8.05 (bs, 1H), 7.85 (s, 1H), 7.50–7.42 (m, 4H), 7.23 (bs, 1H), 7.10 (dd, 1H, J=2.4 and 8.7 Hz), 7.06 (t, 1H, J=2.4 Hz), 7.00–6.94 (m, 1H), 6.73 (d, 1H, J=8.7 Hz), 6.63 (d, 1H, J=8.7 Hz); LCMS: ret. time: 16.12 min.; purity: 86%; MS (m/e): 490 (MH+).

reactant | N2,N4-bis(3,4-ethylenedioxyphenyl)-5-phenyl-2,4-pyrimidinediamine | C1OC=2C=C(C=CC2OC1)NC1=NC=C(C(=N1)NC1=CC2=C(C=C1)OCCO2)C2=CC=CC=C2 | C26H22N4O4
reactant | N2,N4-bis(3,4-ethylenedioxyphenyl)-5-bromo-2,4-pyrimidinediamine | C1OC=2C=C(C=CC2OC1)NC1=NC=C(C(=N1)NC1=CC2=C(C=C1)OCCO2)Br | C20H17BrN4O4
reactant | 4-chlorophenylboronic acid | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
product | N2,N4-bis(3,4-ethylenedioxyphenyl)-5-(4-chlorophenyl)-2,4-pyrimidinediamine | C1OC=2C=C(C=CC2OC1)NC1=NC=C(C(=N1)NC1=CC2=C(C=C1)OCCO2)C2=CC=C(C=C2)Cl | C26H21ClN4O4
